US07259175B2
3-(2-Methyl-4-{[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethyl]-amino}-phenyl)-Propionic acid sodium salt
A solution of 3-(2-Methyl-4-{[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethyl]-amino}-phenyl)-propionic acid methyl ester (0.06 g, 0.13 mmol) and 5M NaOH (0.35 mL, 1.75 mmol) is heated to 70° C. for 14 h. Upon cooling, the solid is filtered and dried in vacuo to yield the title compound (10 mg, 17%) as the sodium salt. MS (ES): 435 (M+); the structure is also confirmed by 1H NMR.

reactant | 3-(2-Methyl-4-{[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethyl]-amino}-phenyl)-propionic acid methyl ester | 0.13 mmol, 0.06 g | COC(CCC1=C(C=C(C=C1)NCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)C)=O | C23H23F3N2O2S
reactant | NaOH | 1.75 mmol, 5M, 0.35 mL | [OH-].[Na+]
product | 3-(2-Methyl-4-{[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethyl]-amino}-phenyl)-Propionic acid sodium salt | 10 mg, 17% | [Na+].CC1=C(C=CC(=C1)NCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)CCC(=O)[O-] | InChI=1S/C22H21F3N2O2S.Na/c1-13-11-18(9-5-15(13)6-10-20(28)29)26-12-19-14(2)27-21(30-19)16-3-7-17(8-4-16)22(23,24)25;/h3-5,7-9,11,26H,6,10,12H2,1-2H3,(H,28,29);/q;+1/p-1
